US08039455B2
b) 5-Nitro-N-(2-oxo-ethyl)-isophthalamic acid methyl ester
A mixture of 29.7 g (95.1 mmol) of N-(2,2-dimethoxy-ethyl)-5-nitro-isophthalamic acid methyl ester in 300 ml of THF and 300 ml of 2N HCl is stirred overnight. Ethyl acetate is added, and the mixture is washed twice with brine. The organic phase is dried over sodium sulfate and evaporated to yield the product in the form of a yellow oil.

reactant | N-(2,2-dimethoxy-ethyl)-5-nitro-isophthalamic acid methyl ester | 95.1 mmol, 29.7 g | COC(C1=CC(C(=O)NCC(OC)OC)=CC(=C1)[N+](=O)[O-])=O | C13H16N2O7
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | HCl | 2N, 300 ml | Cl | ClH
product | 5-Nitro-N-(2-oxo-ethyl)-isophthalamic acid methyl ester | COC(C1=CC(C(=O)NCC=O)=CC(=C1)[N+](=O)[O-])=O | C11H10N2O6
